US05409943
(b) N-(3-(4-Fluorobenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride
A mixture of 2-amino-3-(4-fluorobenzyloxy)pyridine (5.42 g, 24.2 mmol) and ethyl phenylacetimidate hydrochloride (6.28 g, 26.7 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was taken up in chloroform, filtered to remove an insoluble white solid, and purified by flash chromatography (chloroform/methanol) to obtain the product (0.85 g), m.p. 175°-178° C.

reactant | 2-amino-3-(4-fluorobenzyloxy)pyridine | 24.2 mmol, 5.42 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)F | C12H11FN2O
reactant | ethyl phenylacetimidate hydrochloride | 26.7 mmol, 6.28 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(4-Fluorobenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride | 0.85 g | Cl.FC1=CC=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=C1 | InChI=1S/C20H18FN3O.ClH/c21-17-10-8-16(9-11-17)14-25-18-7-4-12-23-20(18)24-19(22)13-15-5-2-1-3-6-15;/h1-12H,13-14H2,(H2,22,23,24);1H
